US08378104B2
Step A: di-tert-butyl (2-chloro-3-methylfuro[2,3-c]pyridin-7-yl)imidodicarbonate
Di-tert-butyl (2-chlorofuro[2,3-c]pyridin-7-yl)imidodicarbonate (3.0 g, 8.15 mmol) in dry THF (100 mL) was cooled to −65° C. to −75° C. and LDA (1.8 M in THF/heptanes/ethylbenzene, 6.0 mL, 10.8 mmol), pre-cooled to the same temperature, was added slowly via syringe over a period of 10 min. The mixture was stirred for 1.5 h at −65° C. to −75° C. and then treated with methyl iodide (0.76 mL, 12.2 mmol) in dry THF added slowly via syringe. The mixture was allowed to warm to RT overnight and was quenched by the addition of water (50 mL) and diluted with EtOAc (100 mL). The phases were separated and the organic phase was dried over Na2SO4, and concentrated in vacuo leaving 3.2 g of a brown solid which was used without further purification. 1H NMR (400 MHz, CDCl3): δ 8.25 (d, J=5.5 Hz, 1H), 7.39 (d, J=5.5 Hz, 1H), 2.22 (s, 3H), 1.40 (s, 18H).

reactant | Di-tert-butyl (2-chlorofuro[2,3-c]pyridin-7-yl)imidodicarbonate | 8.15 mmol, 3.0 g | ClC1=CC=2C(=C(N=CC2)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)O1 | C17H21ClN2O5
reactant | LDA | 10.8 mmol, 1.8 M, 6.0 mL | [Li+].CC(C)[N-]C(C)C
reactant | methyl iodide | 12.2 mmol, 0.76 mL | CI | CH3I
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | di-tert-butyl (2-chloro-3-methylfuro[2,3-c]pyridin-7-yl)imidodicarbonate | 3.2 g | ClC1=C(C=2C(=C(N=CC2)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)O1)C | C18H23ClN2O5
